US05780215
The ester exchange reaction was carried out according to a conventional method in a mixture of 100 weight % dimethyl terephthalate, 14 weight % dimethyl naphthalene-2,6-dicarboxylate and 80 weight % ethylene glycol. The resulting mixture was mixed with 0.05 weight % antimony trioxide and gradually heated and evacuated. Polymerization was carried out at 280° C. and 0.5 mmHg. Thus, modified polyester containing a terephthalic acid and naphthalene-2,6-dicarboxylic acid unit (90/10, mol ratio) was obtained. The intrinsic viscosity of the resulting modified polyester was 0.7 cc/g.

reactant | dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | dimethyl naphthalene-2,6-dicarboxylate | C1=C(C=CC2=CC(=CC=C12)C(=O)OC)C(=O)OC | C14H12O4
reactant | antimony trioxide | O=[Sb]O[Sb]=O
reactant | terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
solvent | ethylene glycol | C(CO)O | C2H6O2
product | naphthalene-2,6-dicarboxylic acid | C1=C(C=CC2=CC(=CC=C12)C(=O)O)C(=O)O | C12H8O4
